US09403807B2
Step A: 3-(4-Chlorophenyl)-3-(4-(methylsulfonamido)-1H-indol-1-yl)pentyl methanesulfonate
To a mixture of N-(1-(3-(4-chlorophenyl)-1-hydroxypentan-3-yl)-1H-indol-4-yl)methanesulfonamide (20 mg, 0.05 mmol), as described in Example 40 Step I, and NMM (10 mg, 0.1 mmol) in DCM (3 mL) was added methanesulfonyl chloride (7 mg, 0.06 mmol). Then the mixture was stirred at room temperature for 1 h, quenched with saturated ammonium chloride solution (5 mL), and extracted with ethyl acetate. The organic layers were washed with brine (5 mL), dried over sodium sulfate, filtered and evaporated. The residue was purified by Prep-TLC (PE/EA=4/1) to afford the title compound as colorless oil. LC/MS m/z=485.1[M+H]+.

reactant | N-(1-(3-(4-chlorophenyl)-1-hydroxypentan-3-yl)-1H-indol-4-yl)methanesulfonamide | 0.05 mmol, 20 mg | ClC1=CC=C(C=C1)C(CCO)(CC)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C20H23ClN2O3S
reactant | NMM | 0.1 mmol, 10 mg | CN1CCOCC1 | C5H11NO
reactant | methanesulfonyl chloride | 0.06 mmol, 7 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Chlorophenyl)-3-(4-(methylsulfonamido)-1H-indol-1-yl)pentyl methanesulfonate | CS(=O)(=O)OCCC(CC)(N1C=CC2=C(C=CC=C12)NS(=O)(=O)C)C1=CC=C(C=C1)Cl | C21H25ClN2O5S2
